US04855314
4-Hydrazinobenzeneacetonitrile hydrochloride
A solution of sodium nitrite (4.0 g) in water (34 ml) was added dropwise at -5° to -2° to a suspension of 4-aminobenzeneacetonitrile (7.6 g) in concentrated hydrochloric acid (80 ml), and stirring was continued at -2° for 20 min. The mixture was filtered and the filtrate added dropwise at 0° to 5° to a solution of tin (II) chloride dihydrate (65 g) in concentrated hydrochloric acid (130 ml). The mixture was allowed to warm to room temperature overnight (17 h), and the precipitate was filtered off, washed with concentrated hydrochloric acid, cold absolute ethanol, and dry ER, and dried to give the title salt as a powder (6.05 g). m.p. 207°-210° (foams).

reactant | sodium nitrite | 4.0 g | N(=O)[O-].[Na+]
reactant | 4-aminobenzeneacetonitrile | 7.6 g | NC1=CC=C(C=C1)CC#N | C8H8N2
reactant | hydrochloric acid | 80 ml | Cl | ClH
solvent | water | 34 ml | O | H2O
product | 4-Hydrazinobenzeneacetonitrile hydrochloride | 6.05 g | Cl.N(N)C1=CC=C(C=C1)CC#N | InChI=1S/C8H9N3.ClH/c9-6-5-7-1-3-8(11-10)4-2-7;/h1-4,11H,5,10H2;1H
